US03984548
Diethyl ethoxymethylene malonate (19.8 g., 0.092 mole) is added to 3,4-dihydro-3,7-dimethyl-2H-1,4-benzoxazine (15.0 g., 0.092 mole) and the solution is heated at 110° to 120° C. for three hours. Polyphosphoric acid (100 g.) is added and the solution is gradually heated to 130° C. with occasional stirring. The solution is heated at 140° to 150° C. for one additional hour. The hot solution is poured into 300 ml. water with stirring, then neutralized with forty percent sodium hydroxide solution. The solid which precipitates is separated by filtration and washed with water. Recrystallization from ethanol gives ethyl 2,3-dihydro-3,9-dimethyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate, m.p. 195°-197° C.

reactant | Diethyl ethoxymethylene malonate | 0.092 mole, 19.8 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3,4-dihydro-3,7-dimethyl-2H-1,4-benzoxazine | 0.092 mole, 15.0 g | CC1COC2=C(N1)C=CC(=C2)C | C10H13NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | ethyl 2,3-dihydro-3,9-dimethyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate | CC1COC=2C=3N1C=C(C(C3C=C(C2)C)=O)C(=O)OCC | C16H17NO4
